US07964727B2
Step 1. tert-Butyl(1-oxaspiro[2.5]oct-6-yloxy)diphenylsilane
To a stirred suspension of sodium hydride (60% in mineral oil, 441 mg, 11.0 mmol) in dimethylsulfoxide (7 mL) was added trimethylsulfoxonium iodide (2.53 g, 11.5 mmol) at room temperature, and the mixture was stirred at room temperature for 30 min. To this mixture was added a solution of 4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexanone (3.53 g, 10.0 mmol, Okamura, William H. et al., J. Org. Chem., 1993, 58, 600) in dimethylsulfoxide (35 mL) dropwise at room temperature, and the mixture was stirred at room temperature for 2 h. Then the mixture was diluted with water (600 mL), and extracted with diethyl ether (200 mL×4). The combined organic layer was dried over magnesium sulfate, and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting with ethyl acetate/n-hexane (1:10), and then purified with plate TLC eluting with ethyl acetate/n-hexane (1:15) to give 459 mg (13%, trans) and 390 mg (11%, cis) of the title compound as a colorless oil respectively.

reactant | sodium hydride | 11.0 mmol, 441 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 11.5 mmol, 2.53 g | [I-].C[S+](=O)(C)C
reactant | 4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexanone | 10.0 mmol, 3.53 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)=O | C22H28O2Si
solvent | dimethylsulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 35 mL | CS(=O)C | C2H6OS
solvent | water | 600 mL | O | H2O
product | tert-Butyl(1-oxaspiro[2.5]oct-6-yloxy)diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1CCC2(CO2)CC1 | C23H30O2Si
